US07750040B2
To a stirred solution of (4-hydroxy-2-methoxy-benzyl)-carbamic acid tert-butyl ester (22.8 mg, 0.09 mmol) in 2-propanol (1 mL) and 2 N aq. NaOH (0.15 mL) is added 2-bromoethanol (22.5 mg, 0.18 mmol). The reaction mixture is heated to 85° C. and stirred for 8 h. The mixture is cooled to rt and subjected to prep. HPLC purification to give [4-(2-hydroxy-ethoxy)-2-methoxy-benzyl]-carbamic acid tert-butyl ester (10.3 mg) as a colourless oil. LC-MS: tR=0.85 min, [M+1]+=298.07.

reactant | (4-hydroxy-2-methoxy-benzyl)-carbamic acid tert-butyl ester | 0.09 mmol, 22.8 mg | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)O)OC)=O | C13H19NO4
reactant | 2-bromoethanol | 0.18 mmol, 22.5 mg | BrCCO | C2H5BrO
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
solvent | NaOH | 2 N, 0.15 mL | [OH-].[Na+]
product | [4-(2-hydroxy-ethoxy)-2-methoxy-benzyl]-carbamic acid tert-butyl ester | 10.3 mg | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)OCCO)OC)=O | C15H23NO5
